US04447435
7-Ethyl-4-hydroxyquinoline was reacted with 40% aqueous formaldehyde in aqueous sodium hydroxide to give the novel compound 7-ethyl-4-hydroxy-3-hydroxymethylquinoline, m.p. 180°-182°.

reactant | 7-Ethyl-4-hydroxyquinoline | C(C)C1=CC=C2C(=CC=NC2=C1)O | C11H11NO
reactant | formaldehyde | C=O | CH2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 7-ethyl-4-hydroxy-3-hydroxymethylquinoline | C(C)C1=CC=C2C(=C(C=NC2=C1)CO)O | C12H13NO2
